US07897619B2
6-Bromo-1-methyl-1H-benzo[d]imidazol-2(3H)-one:
tert-Butyl 5-bromo-2-oxo-2,3-dihydrobenzo[d]imidazole-1-carboxylate (12 g, 38 mmol) (Puwen Zhang, et. al., Bioorganic & Medicinal Chemistry Letters 11 (2001) 2747-2750 hereby incorporated by reference) and anhydrous disodium carbonate (3.2 mL, 77 mmol) were mixed in 200 mL THF. To this mixture was added dimethyl sulfate (15 mL, 153 mmol). The mixture was stirred at room temperature for 18 hours. The solvent was evaporated. The residue was dissolved in EtOAc and washed with brine and dried over sodium sulfate. The solvent was evaporated. The residue was taken up in MeOH (50 mL) and allowed to stand 18 hours. The solvent was evaporated, and the residue was triturated from MeOH (25 mL) to provide the product as a white solid (8.7 g, 100%). LCMS (API-ES) m/z: 227, 229 (M+H+).

reactant | tert-Butyl 5-bromo-2-oxo-2,3-dihydrobenzo[d]imidazole-1-carboxylate | 38 mmol, 12 g | BrC1=CC2=C(N(C(N2)=O)C(=O)OC(C)(C)C)C=C1 | C12H13BrN2O3
reactant | disodium carbonate | 77 mmol, 3.2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | 153 mmol, 15 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-Bromo-1-methyl-1H-benzo[d]imidazol-2(3H)-one | 8.7 g, 100% | BrC=1C=CC2=C(N(C(N2)=O)C)C1 | C8H7BrN2O
